US05128364
Step 1: 2,3-Dihydro-9-phenylthio-1H-pyrrolo[1,2-a]indol-1-one
To a solution of diphenyldisulfide (719 mg, 3.3 mmol) in 1,2-dichloroethane (8 mL) at r.t. there was added sulfuryl chloride (405 mg, 3.0 mmol) and the resulting yellow solution stirred for 30 minutes. To this solution was added a solution of 2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one (855 mg, 5 mmol) in DMF (6 mL). The dark mixture was stirred at r.t. for 30 minutes, then the dichloroethane was evaporated away and the residual DMF solution diluted with H2O (100 mL) and the precipitate filtered. This crude product was stirred in Et2O (25 mL) at room temperature for 1.5 hours and the insoluble solid filtered to afford the title compound as an off-white solid, m.p.: 179°-181° C.

reactant | diphenyldisulfide | 3.3 mmol, 719 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | sulfuryl chloride | 3.0 mmol, 405 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one | 5 mmol, 855 mg | C1(CCN2C1=CC=1C=CC=CC21)=O | C11H9NO
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2,3-Dihydro-9-phenylthio-1H-pyrrolo[1,2-a]indol-1-one | C1(=CC=CC=C1)SC1=C2N(C=3C=CC=CC13)CCC2=O | C17H13NOS
